US08865698B2
Step C: Preparation of (R)—N-(5-(2-(3-fluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidin-3-yl)-1-methyl-6-oxo-1,6-dihydropyridazine-3-carboxamide:
To a mixture of (R)-5-(2-(3-fluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidin-3-amine (30 mg, 0.10 mmol), 1-methyl-6-oxo-1,6-dihydropyridazine-3-carboxylic acid (34 mg, 0.22 mmol), and HATU (84 mg, 0.22 mmol) was added 0.8 mL DMF to make a solution. After cooling in an ice bath for 10 minutes, DIEA (0.053 mL, 0.30 mmol) was added to the reaction drop-wise. The reaction was allowed to warm up to ambient temperature and stirred overnight. The resulting fine yellowish suspension from the reaction mixture was filtered, rinsed with first DMF and then ether, to provide the final product as a yellowish solid (14.4 mg, 33% yield). MS (apci) m/z=434.2 (M+H).

reactant | (R)-5-(2-(3-fluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidin-3-amine | 0.10 mmol, 30 mg | FC=1C=C(C=CC1)[C@@H]1N(CCC1)C1=NC=2N(C=C1)N=CC2N | C16H16FN5
reactant | 1-methyl-6-oxo-1,6-dihydropyridazine-3-carboxylic acid | 0.22 mmol, 34 mg | CN1N=C(C=CC1=O)C(=O)O | C6H6N2O3
reactant | HATU | 0.22 mmol, 84 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 0.30 mmol, 0.053 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | ether | CCOCC | C4H10O
solvent | DMF | 0.8 mL | CN(C)C=O | C3H7NO
product | (R)—N-(5-(2-(3-fluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidin-3-yl)-1-methyl-6-oxo-1,6-dihydropyridazine-3-carboxamide | 14.4 mg, 33% yield | FC=1C=C(C=CC1)[C@@H]1N(CCC1)C1=NC=2N(C=C1)N=CC2NC(=O)C2=NN(C(C=C2)=O)C | C22H20FN7O2
